US05102905
1-Acetyl-5-(nitromethylsulphonyl)indoline (5.41 g, 19 mmol) was added in one portion to a boiling mixture of 2 M hydrochloric acid (60 ml) and ethanol (20 ml). The mixture was heated at reflux until a clear solution formed, and then for a further 5 minutes. The hot reaction mixture was poured into ice-cold saturated sodium hydrogen carbonate solution (100 ml) and then extracted with ethyl acetate. The combined extracts were dried (MgSO4) and the solvent was removed by evaporation. The resultant yellow oil was purified by flash chromatography on silica (Merck kieselgel Art. 7736), eluting with dichloromethane, to give 5-(nitromethylsulphonyl)indoline as a pale yellow solid, m.p. 139° C.; microanalysis, found: C,44.5; H,4.1; N,11.4%; C9H10N2O4S requires: C,44.6; H,4.1; N,11.6%.

reactant | 1-Acetyl-5-(nitromethylsulphonyl)indoline | 19 mmol, 5.41 g | C(C)(=O)N1CCC2=CC(=CC=C12)S(=O)(=O)C[N+](=O)[O-] | C11H12N2O5S
reactant | hydrochloric acid | 2 M, 60 ml | Cl | ClH
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 5-(nitromethylsulphonyl)indoline | [N+](=O)([O-])CS(=O)(=O)C=1C=C2CCNC2=CC1 | C9H10N2O4S
